*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:19:40 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "DFFSRHQX8"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  DFFSRHQX8 SN RN Q CK D
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET SN 8.33609e-16
*|P (SN X 0 3.1000 0.8550)
*|I (Mmn50:g Mmn50 g X 0 3.0825 0.4525)
*|I (Mmn30:g Mmn30 g X 0 5.7625 0.4625)
*|I (Mmp50:g Mmp50 g X 0 3.1375 1.1400)
*|I (Mmp30:g Mmp30 g X 0 5.7625 1.1850)
*|S (SN:2 3.1100 0.8500)
*|S (SN:5 5.5300 1.4100)
C1 Mmp30:g VSS 6.14231e-17
C2 Mmp50:g VSS 4.58467e-17
C3 Mmn30:g VSS 5.34404e-17
C4 Mmn50:g VSS 4.05377e-17
C5 SN:2 VSS 3.20852e-16
C6 SN:5 VSS 3.11509e-16
Rl1 SN:2 Mmn50:g 101.098900 $W=0.039
Rl2 Mmp50:g SN:2 40.384617 $W=0.039
Rl3 Mmp30:g SN:5 150.282288 $W=0.039
Rl4 Mmp30:g Mmn30:g 178.846146 $W=0.039
Rk5 SN:5 SN 2.340069 $W=0.08
Rk6 SN SN:2 45.003010 $W=0.08
*
*|NET RN 1.95298e-16
*|P (RN X 0 2.7000 0.8550)
*|I (Mmn22:g Mmn22 g X 0 2.7275 0.4825)
*|I (Mmp22:g Mmp22 g X 0 2.6275 1.0075)
*|S (RN:2 2.6900 0.7750)
*|S (RN:4 2.6900 0.7750)
C7 Mmp22:g VSS 2.54671e-17
C8 Mmn22:g VSS 2.89591e-17
C9 RN:4 VSS 5.07469e-17
C10 RN:2 VSS 2.48737e-17
C11 RN VSS 6.52512e-17
Rl7 Mmn22:g RN:2 70.386673 $W=0.039
Rl8 RN:2 Mmp22:g 58.107582 $W=0.039
Rk9 RN:4 RN 0.048131 $W=0.1
Rk10 RN:2 RN:4 45.000000 $W=0.1
*
*|NET Q 4.88448e-16
*|P (Q X 0 0.1000 0.6650)
C12 Q VSS 4.88448e-16
*
*|NET CK 1.89737e-16
*|P (CK X 0 7.5000 1.0450)
*|I (Mmn20:g Mmn20 g X 0 7.5275 0.5075)
*|I (Mmp20:g Mmp20 g X 0 7.4525 1.2675)
*|S (CK:2 7.4900 1.0400)
*|S (CK:4 7.4900 1.0400)
C13 Mmp20:g VSS 2.79356e-17
C14 Mmn20:g VSS 3.35983e-17
C15 CK:2 VSS 3.14909e-17
C16 CK VSS 9.67119e-17
Rl11 Mmn20:g CK:2 165.384613 $W=0.039
Rl12 CK:2 Mmp20:g 34.065937 $W=0.039
Rk13 CK:4 CK 0.003008 $W=0.1
Rk14 CK:2 CK:4 45.000000 $W=0.1
*
*|NET D 3.07818e-16
*|P (D X 0 6.9000 0.6650)
*|I (Mmn25:g Mmn25 g X 0 6.7675 0.4625)
*|I (Mmp25:g Mmp25 g X 0 6.7675 1.1850)
*|S (D:1 6.8250 0.7150)
*|S (D:2 6.7675 0.7150)
C17 Mmp25:g VSS 7.35914e-17
C18 Mmn25:g VSS 4.47448e-17
C19 D:2 VSS 4.73527e-17
C20 D:1 VSS 9.6757e-17
C21 D VSS 4.53719e-17
Rl15 D:1 D:2 46.233437 $W=0.114
Rl16 D:2 Mmn25:g 52.725750 $W=0.039
Rl17 D:2 Mmp25:g 116.187286 $W=0.039
Rk18 D D:1 0.022606 $W=0.112
*
*|NET qbint 1.07243e-15
*|I (Mmn55@1:g Mmn55@1 g X 0 0.2125 0.5125)
*|I (Mmn45@1:d Mmn45@1 d X 0 1.7500 0.5300)
*|I (Mmn52:g Mmn52 g X 0 3.2875 0.4525)
*|I (Mmp52:g Mmp52 g X 0 3.3725 1.1400)
*|S (qbint:24 2.5900 1.5200)
C22 Mmp52:g VSS 1.31615e-16
C23 Mmn52:g VSS 7.47906e-17
C24 Mmn45@1:d VSS 3.36485e-16
C25 Mmn55@1:g VSS 4.13066e-16
C26 qbint:24 VSS 1.16468e-16
Rl19 Mmp52:g qbint:24 434.455170 $W=0.039
Rl20 Mmn52:g Mmp52:g 180.334869 $W=0.039
Rk21 Mmn45@1:d qbint:24 0.490627 $W=0.09
Rk22 Mmn45@1:d Mmn55@1:g 45.166790 $W=0.09
*
*|NET n35 8.84285e-16
*|I (Mmn45@1:g Mmn45@1 g X 0 1.6475 0.5300)
*|I (Mmn53:d Mmn53 d X 0 4.3750 0.4525)
*|I (Mmp53:d Mmp53 d X 0 4.2875 1.0600)
*|S (n35:11 4.2900 0.6150)
C27 Mmp53:d VSS 6.90249e-17
C28 Mmn53:d VSS 3.74663e-17
C29 Mmn45@1:g VSS 4.73562e-16
C30 n35:11 VSS 3.04232e-16
Rk23 n35:11 Mmn45@1:g 47.227718 $W=0.08
Rk24 n35:11 Mmn53:d 75.157448 $W=0.1
Rk25 n35:11 Mmp53:d 62.290115 $W=0.08
*
*|NET RNb 8.26723e-16
*|I (Mmn22:d Mmn22 d X 0 2.6350 0.4825)
*|I (Mmn51:g Mmn51 g X 0 3.4925 0.4525)
*|I (Mmn31:g Mmn31 g X 0 5.2525 0.4625)
*|I (Mmp22:d Mmp22 d X 0 2.5550 1.0075)
*|I (Mmp51:g Mmp51 g X 0 3.4925 1.1400)
*|I (Mmp31:g Mmp31 g X 0 5.2525 1.0550)
*|S (RNb:2 3.5200 1.5050)
*|S (RNb:7 2.5250 0.9600)
C31 Mmp31:g VSS 1.37009e-16
C32 Mmp51:g VSS 7.24483e-17
C33 Mmp22:d VSS 1.79839e-16
C34 Mmn31:g VSS 4.74295e-17
C35 Mmn51:g VSS 5.72674e-17
C36 Mmn22:d VSS 8.41867e-17
C37 RNb:2 VSS 2.48543e-16
Rl26 RNb:2 Mmp51:g 63.256599 $W=0.039
Rl27 Mmp51:g Mmn51:g 165.384628 $W=0.039
Rl28 Mmp31:g RNb:2 771.131042 $W=0.039
Rl29 Mmp31:g Mmn31:g 128.846161 $W=0.039
Rk30 RNb:2 RNb:7 46.105511 $W=0.08
Rk31 RNb:7 Mmn22:d 75.427246 $W=0.08
Rk32 Mmp22:d RNb:7 62.000000 $W=0.08
*
*|NET n42 1.43088e-16
*|I (Mmn50:d Mmn50 d X 0 3.1850 0.4525)
*|I (Mmn51:s Mmn51 s X 0 3.5975 0.4525)
C38 Mmn51:s VSS 7.39457e-17
C39 Mmn50:d VSS 6.91428e-17
Rk33 Mmn50:d Mmn51:s 150.316330 $W=0.0635
*
*|NET n40 2.04529e-16
*|I (Mmn52:d Mmn52 d X 0 3.3900 0.4525)
*|I (Mmn53:s Mmn53 s X 0 4.1450 0.4525)
C40 Mmn53:s VSS 8.87269e-17
C41 Mmn52:d VSS 1.15802e-16
Rk34 Mmn53:s Mmn52:d 150.619583 $W=0.08
*
*|NET CKb 1.26194e-15
*|I (Mmn53:g Mmn53 g X 0 4.2725 0.4525)
*|I (Mmn26:g Mmn26 g X 0 6.6075 0.4625)
*|I (Mmn21:g Mmn21 g X 0 7.0325 0.5375)
*|I (Mmn20:d Mmn20 d X 0 7.4350 0.5075)
*|I (Mmp40:g Mmp40 g X 0 4.3925 1.0600)
*|I (Mmp36:g Mmp36 g X 0 6.3225 1.1850)
*|I (Mmp21:g Mmp21 g X 0 6.9725 1.1375)
*|I (Mmp20:d Mmp20 d X 0 7.3500 1.2675)
*|S (CKb:1 4.8000 0.7700)
*|S (CKb:2 4.3925 0.8075)
*|S (CKb:6 6.2850 0.8000)
*|S (CKb:8 6.6350 0.6750)
*|S (CKb:9 7.1200 0.3650)
*|S (CKb:14 7.4250 0.4950)
*|S (CKb:15 6.6350 0.3450)
*|S (CKb:16 6.2550 0.6100)
C42 Mmp20:d VSS 8.25476e-17
C43 Mmp21:g VSS 5.49451e-17
C44 Mmp36:g VSS 4.74676e-17
C45 Mmp40:g VSS 4.16374e-17
C46 Mmn20:d VSS 8.26815e-17
C47 Mmn21:g VSS 4.74769e-17
C48 Mmn26:g VSS 4.70601e-17
C49 Mmn53:g VSS 5.45581e-17
C50 CKb:16 VSS 1.79803e-16
C51 CKb:15 VSS 7.51634e-17
C52 CKb:2 VSS 4.74683e-17
C53 CKb:1 VSS 2.22757e-16
C54 CKb:6 VSS 9.22708e-17
C55 CKb:8 VSS 1.08822e-16
C56 CKb:9 VSS 7.72834e-17
Rl35 CKb:1 CKb:2 185.774048 $W=0.039
Rl36 CKb:2 Mmn53:g 114.928162 $W=0.039
Rl37 Mmn26:g CKb:8 74.537926 $W=0.039
Rl38 CKb:9 Mmn21:g 81.271500 $W=0.039
Rl39 CKb:2 Mmp40:g 30.450726 $W=0.039
Rl40 Mmp36:g CKb:6 119.232826 $W=0.039
Rl41 Mmn21:g Mmp21:g 166.873337 $W=0.039
Rk42 CKb:14 CKb:9 0.304978 $W=0.09
Rk43 CKb:9 CKb:15 0.365016 $W=0.0815
Rk44 CKb:15 CKb:8 0.219784 $W=0.08
Rk45 CKb:16 CKb:6 0.146086 $W=0.08
Rk46 CKb:16 CKb:1 1.210494 $W=0.08
Rk47 CKb:15 CKb:16 0.467651 $W=0.09
Rk48 Mmn20:d CKb:14 75.000000 $W=0.09
Rk49 Mmp20:d CKb:14 62.576195 $W=0.09
*
*|NET mout 7.43933e-16
*|I (Mmn40:s Mmn40 s X 0 4.5850 0.4525)
*|I (Mmn31:d Mmn31 d X 0 5.3550 0.4625)
*|I (Mmn35:g Mmn35 g X 0 6.1425 0.4625)
*|I (Mmp40:s Mmp40 s X 0 4.5425 1.0600)
*|I (Mmp32:d Mmp32 d X 0 5.6900 1.1850)
*|I (Mmp35:g Mmp35 g X 0 6.1425 1.1850)
*|S (mout:2 6.1425 0.9025)
*|S (mout:3 5.9050 0.9300)
*|S (mout:5 5.6900 0.9300)
*|S (mout:7 4.6100 0.9650)
*|S (mout:8 4.6100 0.5800)
C57 Mmp35:g VSS 3.95952e-17
C58 Mmp32:d VSS 3.68201e-17
C59 Mmp40:s VSS 1.71058e-16
C60 Mmn35:g VSS 4.16306e-17
C61 Mmn31:d VSS 1.13044e-16
C62 Mmn40:s VSS 1.79551e-17
C63 mout:8 VSS 7.21888e-17
C64 mout:5 VSS 1.35993e-16
C65 mout:2 VSS 4.0555e-17
C66 mout:3 VSS 7.50924e-17
Rl50 mout:2 mout:3 116.527115 $W=0.039
Rl51 mout:2 Mmn35:g 128.079697 $W=0.039
Rl52 Mmp35:g mout:2 47.310455 $W=0.039
Rk53 mout:3 mout:5 0.176864 $W=0.08
Rk54 mout:5 mout:7 0.873501 $W=0.08
Rk55 mout:7 mout:8 0.296827 $W=0.08
Rk56 mout:8 Mmn40:s 75.067902 $W=0.1
Rk57 mout:8 Mmn31:d 75.620743 $W=0.08
Rk58 Mmp40:s mout:7 62.000000 $W=0.08
Rk59 mout:5 Mmp32:d 62.087078 $W=0.1
*
*|NET CKbb 1.28963e-15
*|I (Mmn40:g Mmn40 g X 0 4.4775 0.4525)
*|I (Mmn36:g Mmn36 g X 0 6.3425 0.4625)
*|I (Mmn21:d Mmn21 d X 0 7.1250 0.5375)
*|I (Mmp53:g Mmp53 g X 0 4.1825 1.0600)
*|I (Mmp26:g Mmp26 g X 0 6.6075 1.1850)
*|I (Mmp21:d Mmp21 d X 0 7.0650 1.1375)
*|S (CKbb:2 4.1300 0.8050)
*|S (CKbb:4 4.4500 0.6650)
*|S (CKbb:6 6.6350 0.9200)
*|S (CKbb:8 6.6350 0.9950)
*|S (CKbb:9 4.4500 1.1550)
*|S (CKbb:10 7.0750 0.9950)
C67 Mmp21:d VSS 1.95782e-17
C68 Mmp26:g VSS 3.82942e-17
C69 Mmp53:g VSS 3.55075e-17
C70 Mmn21:d VSS 6.40915e-17
C71 Mmn36:g VSS 7.11279e-17
C72 Mmn40:g VSS 3.94016e-17
C73 CKbb:10 VSS 5.56194e-17
C74 CKbb:9 VSS 3.97635e-16
C75 CKbb:8 VSS 2.42755e-16
C76 CKbb:2 VSS 1.12424e-16
C77 CKbb:4 VSS 1.23543e-16
C78 CKbb:6 VSS 8.96541e-17
Rl60 Mmn40:g CKbb:4 74.537926 $W=0.039
Rl61 CKbb:6 Mmn36:g 193.773590 $W=0.039
Rl62 Mmp53:g CKbb:2 74.484886 $W=0.039
Rl63 Mmp26:g CKbb:6 24.795059 $W=0.039
Rk64 CKbb:6 CKbb:8 45.064545 $W=0.08
Rk65 CKbb:9 CKbb:4 0.373722 $W=0.08
Rk66 CKbb:9 CKbb:2 0.500127 $W=0.08
Rk67 CKbb:8 CKbb:9 2.206215 $W=0.08
Rk68 CKbb:8 CKbb:10 0.282190 $W=0.08
Rk69 CKbb:10 Mmn21:d 75.333748 $W=0.0815
Rk70 CKbb:10 Mmp21:d 62.075302 $W=0.09
*
*|NET n25 1.63723e-16
*|I (Mmn31:s Mmn31 s X 0 5.1250 0.4625)
*|I (Mmn32:s Mmn32 s X 0 5.6100 0.4625)
C79 Mmn32:s VSS 8.34776e-17
C80 Mmn31:s VSS 8.02453e-17
Rk71 Mmn32:s Mmn31:s 150.409775 $W=0.1
*
*|NET n20 5.41745e-16
*|I (Mmn32:g Mmn32 g X 0 5.4575 0.4625)
*|I (Mmn36:d Mmn36 d X 0 6.4750 0.4625)
*|I (Mmp32:g Mmp32 g X 0 5.3875 1.0550)
*|I (Mmp36:d Mmp36 d X 0 6.4650 1.1850)
*|S (n20:1 5.6200 0.7700)
*|S (n20:2 5.4575 0.7975)
*|S (n20:6 6.4750 0.9600)
C81 Mmp36:d VSS 4.13283e-17
C82 Mmp32:g VSS 6.36134e-17
C83 Mmn36:d VSS 7.4376e-17
C84 Mmn32:g VSS 4.09095e-17
C85 n20:6 VSS 1.23841e-16
C86 n20:2 VSS 2.7336e-17
C87 n20:1 VSS 1.70341e-16
Rl72 n20:1 n20:2 93.002228 $W=0.039
Rl73 n20:2 Mmn32:g 82.373802 $W=0.039
Rl74 n20:2 Mmp32:g 55.747124 $W=0.039
Rk75 n20:6 n20:1 0.779669 $W=0.08
Rk76 n20:6 Mmn36:d 75.357300 $W=0.08
Rk77 Mmp36:d n20:6 62.105556 $W=0.08
*
*|NET n30 1.97998e-18
*|I (Mmn35:d Mmn35 d X 0 6.2425 0.4625)
*|I (Mmn36:s Mmn36 s X 0 6.2425 0.4625)
C88 Mmn35:d VSS 1.97998e-18
Rmw78 Mmn36:s Mmn35:d 0.001000 $W=1
*
*|NET n21 1.42395e-18
*|I (Mmn26:s Mmn26 s X 0 6.6875 0.4625)
*|I (Mmn25:d Mmn25 d X 0 6.6875 0.4625)
C89 Mmn26:s VSS 1.42395e-18
Rmw79 Mmn25:d Mmn26:s 0.001000 $W=1
*
*|NET n41 2.16528e-16
*|I (Mmp50:d Mmp50 d X 0 3.2550 1.1400)
*|I (Mmp53:s Mmp53 s X 0 4.1100 1.0600)
C90 Mmp53:s VSS 1.0503e-16
C91 Mmp50:d VSS 1.11497e-16
Rk80 Mmp53:s Mmp50:d 124.413094 $W=0.1
*
*|NET n43 2.07482e-18
*|I (Mmp52:d Mmp52 d X 0 3.4325 1.1400)
*|I (Mmp51:d Mmp51 d X 0 3.4325 1.1400)
C92 Mmp52:d VSS 2.07482e-18
Rmw81 Mmp51:d Mmp52:d 0.001000 $W=1
*
*|NET n26 2.74119e-18
*|I (Mmp31:d Mmp31 d X 0 5.3200 1.0550)
*|I (Mmp32:s Mmp32 s X 0 5.3200 1.0550)
C93 Mmp31:d VSS 2.74119e-18
Rmw82 Mmp32:s Mmp31:d 0.001000 $W=1
*
*|NET n31 4.53202e-18
*|I (Mmp35:d Mmp35 d X 0 6.2325 1.1850)
*|I (Mmp36:s Mmp36 s X 0 6.2325 1.1850)
C94 Mmp35:d VSS 4.53202e-18
Rmw83 Mmp36:s Mmp35:d 0.001000 $W=1
*
*|NET n22 1.71154e-18
*|I (Mmp26:s Mmp26 s X 0 6.6875 1.1850)
*|I (Mmp25:d Mmp25 d X 0 6.6875 1.1850)
C95 Mmp26:s VSS 1.71154e-18
Rmw84 Mmp25:d Mmp26:s 0.001000 $W=1
*
*Instance Section
*
Mmn22	Mmn22:d	Mmn22:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.08755P	PD=0.57U	PS=1.57U
+ fw=1.45e-07 sa=1.4e-07 sb=9.3e-07 sca=11.9911 scb=0.0120555 scc=0.000498628
Mmn50	Mmn50:d	Mmn50:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0328P	AS=0.08755P	PD=0.73U	PS=1.57U
+ fw=2.05e-07 sa=3.99878e-07 sb=5.75e-07 sca=10.7727 scb=0.0101457 scc=0.000373012
Mmn52	Mmn52:d	Mmn52:g	Mmn50:d	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0328P	AS=0.0328P	PD=0.73U	PS=0.73U
+ fw=2.05e-07 sa=6.04878e-07 sb=3.7e-07 sca=10.7727 scb=0.0101457 scc=0.000373012
Mmn51	Mmn52:d	Mmn51:g	Mmn51:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0328P	AS=0.03382P	PD=0.73U	PS=0.74U
+ fw=2.05e-07 sa=8.09878e-07 sb=1.65e-07 sca=10.7727 scb=0.0101457 scc=0.000373012
Mmn53	Mmn53:d	Mmn53:g	Mmn53:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0328P	AS=0.04305P	PD=0.73U	PS=0.83U
+ fw=2.05e-07 sa=2.1e-07 sb=3.75e-07 sca=10.7727 scb=0.0101457 scc=0.000373012
Mmn40	Mmn53:d	Mmn40:g	Mmn40:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0328P	AS=0.03485P	PD=0.73U	PS=0.75U
+ fw=2.05e-07 sa=4.15e-07 sb=1.7e-07 sca=10.7727 scb=0.0101457 scc=0.000373012
Mmn31	Mmn31:d	Mmn31:g	Mmn31:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0328P	AS=0.04305P	PD=0.73U	PS=0.83U
+ fw=2.05e-07 sa=2.1e-07 sb=1.79963e-06 sca=11.2689 scb=0.0108709 scc=0.000440973
Mmn32	Mmn31:d	Mmn32:g	Mmn32:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0328P	AS=0.0533P	PD=0.73U	PS=0.93U
+ fw=2.05e-07 sa=4.15e-07 sb=1.59463e-06 sca=11.2689 scb=0.0108709 scc=0.000440973
Mmn30	Mmn32:s	Mmn30:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0533P	AS=0.06867P	PD=0.93U	PS=1.08U
+ fw=2.05e-07 sa=7.2e-07 sb=1.28963e-06 sca=11.2689 scb=0.0108709 scc=0.000440973
Mmn35	Mmn35:d	Mmn35:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.03177P	AS=0.06867P	PD=0.72U	PS=1.08U
+ fw=2.05e-07 sa=1.1e-06 sb=9.09634e-07 sca=11.2689 scb=0.0108709 scc=0.000440973
Mmn36	Mmn36:d	Mmn36:g	Mmn36:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0451P	AS=0.03177P	PD=0.85U	PS=0.72U
+ fw=2.05e-07 sa=1.3e-06 sb=7.09634e-07 sca=11.2689 scb=0.0108709 scc=0.000440973
Mmn26	Mmn36:d	Mmn26:g	Mmn26:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0451P	AS=0.02357P	PD=0.85U	PS=0.64U
+ fw=2.05e-07 sa=1.565e-06 sb=4.44634e-07 sca=11.2689 scb=0.0108709 scc=0.000440973
Mmn25	Mmn25:d	Mmn25:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.02357P	AS=0.07795P	PD=0.64U	PS=1.5U
+ fw=2.05e-07 sa=1.725e-06 sb=2.84634e-07 sca=11.2689 scb=0.0108709 scc=0.000440973
Mmn21	Mmn21:d	Mmn21:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.07795P	PD=0.57U	PS=1.5U
+ fw=1.45e-07 sa=1.40345e-06 sb=1.4e-07 sca=16.2011 scb=0.0172667 scc=0.0012292
Mmn20	Mmn20:d	Mmn20:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.04065P	PD=0.57U	PS=1.34U
+ fw=1.45e-07 sa=1.4e-07 sb=1e-07 sca=13.6097 scb=0.014254 scc=0.000755054
Mmn55@1	Q	Mmn55@1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.295U
+ AD=0.04636P	AS=0.0469P	PD=0.90429U	PS=0.91U	M=7
+ fw=2.95e-07 sa=1.4e-07 sb=1.92051e-06 sca=16.4223 scb=0.0158966 scc=0.0014413
Mmn45@1	Mmn45@1:d	Mmn45@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0481P	AS=0.04623P	PD=0.89U	PS=0.89U	M=3
+ fw=2.6e-07 sa=1.575e-06 sb=6.65e-07 sca=17.5885 scb=0.0172826 scc=0.00162584
Mmp22	Mmp22:d	Mmp22:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0263P	AS=0.11155P	PD=0.71U	PS=2.55U
+ fw=2.15e-07 sa=1.22326e-07 sb=3.27209e-07 sca=45.7906 scb=0.0283307 scc=0.00588417
Mmp50	Mmp50:d	Mmp50:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0589P	AS=0.11155P	PD=1U	PS=2.55U
+ fw=3.1e-07 sa=1.86774e-07 sb=4.84839e-07 sca=16.8851 scb=0.0157945 scc=0.0012748
Mmp52	Mmp52:d	Mmp52:g	Mmp50:d	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.02325P	AS=0.0589P	PD=0.77U	PS=1U
+ fw=3.1e-07 sa=4.21774e-07 sb=2.49839e-07 sca=16.8851 scb=0.0157945 scc=0.0012748
Mmp51	Mmp51:d	Mmp51:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.02325P	AS=0.04985P	PD=0.77U	PS=1.35U
+ fw=3.1e-07 sa=5.41774e-07 sb=1.29839e-07 sca=16.8851 scb=0.0157945 scc=0.0012748
Mmp53	Mmp53:d	Mmp53:g	Mmp53:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.05115P	AS=0.049P	PD=0.95U	PS=1.12U
+ fw=3.1e-07 sa=1.58065e-07 sb=4.65e-07 sca=33.4558 scb=0.0229674 scc=0.00395167
Mmp40	Mmp53:d	Mmp40:g	Mmp40:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.05115P	AS=0.07905P	PD=0.95U	PS=1.13U
+ fw=3.1e-07 sa=3.68065e-07 sb=2.55e-07 sca=33.4558 scb=0.0229674 scc=0.00395167
Mmp31	Mmp31:d	Mmp31:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0279P	AS=0.0839P	PD=0.8U	PS=1.48U
+ fw=3.1e-07 sa=1.7e-07 sb=1.17855e-06 sca=35.6995 scb=0.0234062 scc=0.00420468
Mmp32	Mmp32:d	Mmp32:g	Mmp32:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0854P	AS=0.0279P	PD=1.54U	PS=0.8U
+ fw=3.1e-07 sa=3.05e-07 sb=1.04355e-06 sca=35.6995 scb=0.0234062 scc=0.00420468
Mmp30	Mmp32:d	Mmp30:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0854P	AS=0.10385P	PD=1.54U	PS=1.29U
+ fw=3.1e-07 sa=4.36774e-07 sb=1.27492e-06 sca=13.6224 scb=0.0125368 scc=0.000630866
Mmp35	Mmp35:d	Mmp35:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.04185P	AS=0.10385P	PD=0.89U	PS=1.29U
+ fw=3.1e-07 sa=8.16774e-07 sb=8.94919e-07 sca=13.6224 scb=0.0125368 scc=0.000630866
Mmp36	Mmp36:d	Mmp36:g	Mmp36:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0744P	AS=0.04185P	PD=1.1U	PS=0.89U
+ fw=3.1e-07 sa=9.96774e-07 sb=7.14919e-07 sca=13.6224 scb=0.0125368 scc=0.000630866
Mmp26	Mmp36:d	Mmp26:g	Mmp26:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0744P	AS=0.03565P	PD=1.1U	PS=0.85U
+ fw=3.1e-07 sa=1.28177e-06 sb=4.29919e-07 sca=13.6224 scb=0.0125368 scc=0.000630866
Mmp25	Mmp25:d	Mmp25:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.03565P	AS=0.0439P	PD=0.85U	PS=0.94U
+ fw=3.1e-07 sa=1.44177e-06 sb=2.69919e-07 sca=13.6224 scb=0.0125368 scc=0.000630866
Mmp21	Mmp21:d	Mmp21:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0439P	PD=0.71U	PS=0.94U
+ fw=2.15e-07 sa=1.79558e-06 sb=1.4e-07 sca=15.5686 scb=0.0151127 scc=0.000885455
Mmp20	Mmp20:d	Mmp20:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.0301P	PD=0.75U	PS=0.71U
+ fw=2.15e-07 sa=1.6e-07 sb=1.4e-07 sca=15.5771 scb=0.0149239 scc=0.000232429
Mmp55@1	Q	Mmn55@1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.445U
+ AD=0.06993P	AS=0.07073P	PD=1.20429U	PS=1.21U	M=7
+ fw=4.45e-07 sa=1.4e-07 sb=1.87978e-06 sca=40.5428 scb=0.0363846 scc=0.00414682
Mmp45@1	Mmn45@1:d	Mmn45@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0562P	AS=0.06423P	PD=1.08667U	PS=1.13667U	M=3
+ fw=3.9e-07 sa=1.575e-06 sb=5.22308e-07 sca=18.3796 scb=0.0159892 scc=0.00159615
.ENDS
.END
